US05091384
Preparation of 3,8-diazabicyclo[4.3.0]non-1(6)-ene dihydrobromide
1.5 g of N8 -(p-toluenesulfonyl)-3,8-diazabicyclo[4.3.0]non-1(6)-ene, prepared in Preparation 8, was suspended in 15 ml of 48% hydrobromic acid and 2 g of phenol, and the reaction mixture was refluxed for 4 hours. After cooling the reaction mixture, 20 ml of water was added. The mixture was washed with chloroform (40 ml×3). The aqueous phase was taken and decolorized by active carbon. The aqueous phase was concentrated under reduced pressure and thus resulting solid was washed with 1:1 methanol-ethylether solvent. 0.9 g of the title compound was obtained (yield 98%).

reactant | N8 -(p-toluenesulfonyl)-3,8-diazabicyclo[4.3.0]non-1(6)-ene | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC=2CCNCC2C1)C | C14H18N2O2S
reactant | water | 20 ml | O | H2O
reactant | hydrobromic acid | 15 ml | Br | BrH
solvent | phenol | 2 g | C1(=CC=CC=C1)O | C6H6O
product | 3,8-diazabicyclo[4.3.0]non-1(6)-ene dihydrobromide | 0.9 g, yield 98% | Br.Br.C1=2CNCCC2CNC1 | InChI=1S/C7H12N2.2BrH/c1-2-8-4-7-5-9-3-6(1)7;;/h8-9H,1-5H2;2*1H
